US05439911
Triethylamine (0.33 g, 3.26 mmol) was added to a solution of ethyl 4-chloro-6-ethylpyrimidine-5-carboxylate (0.40 g, 1.86 mmol) in toluene (10 ml). The mixture was stirred at room temperature. Then, 1-(4-butoxyphenyl)-1-propylamine (0.46 g, 2.22 mmol) was added. After stirring at 80° C. for 3 hours, water (40 ml) was added to the reaction mixture. The mixture was extracted with methylene chloride and dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (=8/2) to give the desired ethyl 4-(1-(4-butoxyphenyl)-1propylamino)-6-ethylpyrimidine-5-carboxylate (0.32 g, 44%).

reactant | Triethylamine | 3.26 mmol, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-chloro-6-ethylpyrimidine-5-carboxylate | 1.86 mmol, 0.40 g | ClC1=NC=NC(=C1C(=O)OCC)CC | C9H11ClN2O2
reactant | 1-(4-butoxyphenyl)-1-propylamine | 2.22 mmol, 0.46 g | C(CCC)OC1=CC=C(C=C1)C(CC)N | C13H21NO
reactant | water | 40 ml | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-(1-(4-butoxyphenyl)-1propylamino)-6-ethylpyrimidine-5-carboxylate | 0.32 g, 44% | C(CCC)OC1=CC=C(C=C1)C(CC)NC1=NC=NC(=C1C(=O)OCC)CC | C22H31N3O3
